US07745641B2
In a similar manner to Step 2 of Reference Example 2, 5-(tert-butyldimethylsilyloxy)indole (510 mg) was dissolved in acetonitrile (2 mL), and the solution was treated with di-tert-butyldicarbonate (0.510 mL, 2.22 mmol) and DMAP (10.1 mg, 0.0827 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=100/0 to 95/5) to obtain 5-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)indole (549 mg).

reactant | di-tert-butyldicarbonate | 2.22 mmol, 0.510 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-(tert-butyldimethylsilyloxy)indole | 510 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CNC2=CC1 | C14H21NOSi
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.0827 mmol, 10.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)indole | 549 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C19H29NO3Si
